US06187805B1
b) 1-Benzenesulphonyl-5-methoxy-3-[(2-pyrrolidin-1-yl)ethyl]-1H-indole Hydrogen Oxalate
To a stirred solution of benzenesulphonic acid 2-(1-benzenesulphonyl-5-methoxy-1H-indol-3-yl)ethyl ester (0.191 g, 0.405 mmol) in anhydrous 2-propanol (10 ml) under nitrogen was added anhydrous potassium carbonate (0.112 g, 0.810 mmol), then a solution of pyrrolidine (0.17 ml, 2.03 mmol) in anhydrous 2-propanol (3 ml). The mixture was heated at reflux for 4 h, and the solvents were then removed in vacuo. The residue was partitioned between dichloromethane and water, and the aqueous layer was extracted further with dichloromethane. The combined organic extracts were washed with brine (2×25 ml), dried (Na2SO4), and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, CH2Cl2—MeOH—NH3; 95:5:0.5) to give 0.102 g (65%) of the title compound free base. The oxalate salt was prepared in EtOH-Et2O as a white solid; mp 217°-220° C.; δH (360 MHz, d6-DMSO) 1.94 (4H, s), 3.03 (2H, m), 3.27 (4H, s), 3.40 (2H, m), 3.79 (3H, s), 6.98 (1H, dd, J=9.0, 2.3 Hz), 7.17 (1H, d, J=2.3 Hz), 7.58 (2H, t, J=8.0 Hz), 7.69 (2H, m), 7.82 (1H, d, J=9.0 Hz), 7.92 (2H, d, J=7.9 Hz); m/z (ES+) 385 (MH30 ). Found: C, 57.83; H, 5.31; N, 5.87. C21H24N2O3S.C2H2O4 requires C, 58.22; H, 5.52; N, 5.90%.

reactant | benzenesulphonic acid 2-(1-benzenesulphonyl-5-methoxy-1H-indol-3-yl)ethyl ester | 0.405 mmol, 0.191 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)OC)CCOS(=O)(=O)C1=CC=CC=C1 | C23H21NO6S2
reactant | potassium carbonate | 0.810 mmol, 0.112 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 2.03 mmol, 0.17 ml | N1CCCC1 | C4H9N
reactant | 2-propanol | 10 ml | CC(C)O | C3H8O
reactant | 2-propanol | 3 ml | CC(C)O | C3H8O
product | 1-Benzenesulphonyl-5-methoxy-3-[(2-pyrrolidin-1-yl)ethyl]-1H-indole Hydrogen Oxalate | 0.102 g, 65% | C(C(=O)O)(=O)O.C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)OC)CCN1CCCC1 | InChI=1S/C21H24N2O3S.C2H2O4/c1-26-18-9-10-21-20(15-18)17(11-14-22-12-5-6-13-22)16-23(21)27(24,25)19-7-3-2-4-8-19;3-1(4)2(5)6/h2-4,7-10,15-16H,5-6,11-14H2,1H3;(H,3,4)(H,5,6)
